US04791200
4-[3,5-Dichloro-4-(dibutylaminopropoxy)phenyl]-2-phenylthiazole
Following the procedure of Example 1, 3,5-dichloro-4-hydroxyacetophenone (10 g, 49 mmol) was used in place of p-hydroxyacetophenone with 1-bromo-3-chloropropane (21 ml, 0.20 mol) to give 10.5 g (76% yield) of 3,5-dichloro-4-chloropropoxyacetophenone. 1H NMR (CDCl3): δ7.88 (s, 2H), 4.24 (t, J=5.7 Hz, 2H), 3.86 (t, J=6.4 Hz, 2H), 2.57 (s, 3H), 2.24 (m, 2H). Bromination (6.0 g, 37 mmol) followed by condensation with thiobenzamide (2.6 g, 19 mmol) of this product in accordance with Example 1 afforded 4-[3,5-dichloro-4-(chloropropoxy)phenyl]-2-phenylthiazole in 98% yield (7.4 g). 1H NMR (CD3OD): δ8.08-7.48 (m, 8H), 4.22 (t, J=5.7 Hz, 2H), 3.89 (t, J=6.4 Hz, 2H), 2.32 (m, 2H). Treatment of this product (3.9 g, 9.8 mmol) with dibutylamine in accordance with Example 1 gave 2.5 g (48% yield) of the free base of the title compound which was converted to the HCl salt, mp 167°-169° C. IR(KBr): 2440 cm-1, MS: 491(MH+). 1H NMR (CD3OD): 8.05-7.46 (m, 8H), 4.20 (t, J=5.0 Hz, 2H), 3.64-3.16 (m, 6H), 2.28 (m, 2H), 1.85-1.34 (m, 8H), 1.01 (m, 6H).

reactant | thiobenzamide | 19 mmol, 2.6 g | C(C1=CC=CC=C1)(=S)N | C7H7NS
reactant | 4-[3,5-dichloro-4-(chloropropoxy)phenyl]-2-phenylthiazole | ClC=1C=C(C=C(C1OCCCCl)Cl)C=1N=C(SC1)C1=CC=CC=C1 | C18H14Cl3NOS
reactant | dibutylamine | C(CCC)NCCCC | C8H19N
product | 4-[3,5-Dichloro-4-(dibutylaminopropoxy)phenyl]-2-phenylthiazole | ClC=1C=C(C=C(C1OCCCN(CCCC)CCCC)Cl)C=1N=C(SC1)C1=CC=CC=C1 | C26H32Cl2N2OS
